US09422281B2
N,N-Diisopropylethylamine (0.148 mL, 0.846 mmol) was added to a solution of (S)-cyclopentyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.062 g, 0.169 mmol) and methyl chloroformate (0.065 mL, 0.846 mmol) in 1,2-dichloroethane (2.0 mL), and the mixture stirred at 50° C. for 2.5 h. The reaction mixture was concentrated to afford a brown oil. This material was purified via column chromatography on silica gel (Biotage 25 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-4-cyclopentyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate (0.057 g, 79%) as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.90-1.02 (m, 2 H), 1.02-1.12 (m, 5 H), 1.37-1.93 (m, 9 H), 3.66-3.81 (m, 5 H), 4.49-4.72 (m, 1 H), 5.00-5.21 (m, 1 H), 7.17-7.39 (m, 1 H), 7.67-7.82 (m, 3 H), 8.13 (s, 1 H). MS (ESI, pos. ion) m/z 425. [M+1]+.

reactant | N,N-Diisopropylethylamine | 0.846 mmol, 0.148 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-cyclopentyl 7-(1-cyclopropyl-1H-pyrazol-4-yl)-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.169 mmol, 0.062 g | C1(CC1)N1N=CC(=C1)C1=CC=C2N[C@H](CN(C2=C1)C(=O)OC1CCCC1)C | C21H26N4O2
reactant | methyl chloroformate | 0.846 mmol, 0.065 mL | ClC(=O)OC | C2H3ClO2
solvent | 1,2-dichloroethane | 2.0 mL | ClCCCl | C2H4Cl2
product | (S)-4-cyclopentyl 1-methyl 6-(1-cyclopropyl-1H-pyrazol-4-yl)-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | 0.057 g, 79% | C1(CC1)N1N=CC(=C1)C=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC1CCCC1 | C23H28N4O4
